Rectificador de media onda
V1 in 0 SIN(0 10 50)
D1 in out D1N4007
R1 out 0 1k
.model D1N4007 D(Is=14.11e-9 Rs=0.0105 N=1.849 Cjo=51.17e-12 M=0.3333 Vj=0.7)
.tran 0 100m 0 10u
.plot tran v(in) v(out)
.end