* Simple RC Low-Pass Filter Netlist
* Cutoff frequency: ~159 Hz (R=1k, C=1uF)

.title RC Low-Pass Filter Simulation

* Components
R1 in out 1k      ; Resistor 1kÎ©
C1 out 0 1uF      ; Capacitor 1Î¼F

* Input voltage source (AC analysis)
Vin in 0 AC 1V    ; 1V AC input for frequency response

* Analysis commands
.control
* AC analysis: frequency sweep from 10Hz to 10kHz
ac dec 100 10 10k

* Plot frequency response
plot vdb(out)     ; Plot magnitude in dB
plot vp(out)      ; Plot phase

* Transient analysis: step response
tran 10u 10m     ; 10Î¼s step, 10ms simulation time

* Step input for transient analysis
let vin_step = unitstep(time)  ; Create step function
plot v(out) vin_step          ; Plot step response
.endc

* End of netlist
.end