* Simple RC Low-Pass Filter Netlist
* Cutoff frequency: ~1.59 kHz (fc = 1/(2*pi*R*C))

* Circuit components
V1 in 0 DC 0 AC 1 SIN(0 1 1k) ; Input source (DC=0, AC=1, sine wave 1Vpp, 1kHz)
R1 in out 1k                   ; 1kÎ© resistor
C1 out 0 100n                  ; 100nF capacitor

* Analysis commands
.control
* AC analysis (frequency response)
ac dec 10 10 100k              ; AC sweep: 10 points per decade from 10Hz to 100kHz
plot vdb(out)                  ; Plot output voltage in dB
plot v(out)                    ; Plot output voltage magnitude

* Transient analysis (time domain)
tran 10u 5m                    ; Transient analysis: 10Î¼s step, 5ms duration
plot v(in) v(out)              ; Plot input and output voltages

* Operating point analysis
op                              ; DC operating point
print all                      ; Print all node voltages

* Measure cutoff frequency (-3dB point)
meas ac f3db WHEN vdb(out)=vdb(out)[0]-3 ; Find -3dB frequency
print f3db                     ; Print cutoff frequency
.endc

* End of netlist
.end